US05869664
Heretofore, in a process for obtaining an adduct of imidazole-isocyanuric acid, water, aqueous solution of acetic acid, or dimethylformamide is used as a solvent. An imidazole compound and isocyanuric acid are charged into the solvent as it is in a solid to react by addition, and then crystallized while cooling, thereby being obtained an adduct of imidazole-isocyanuric acid. (confer JP-A-53-116391).

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | isocyanuric acid | N1C(=O)NC(=O)NC1=O | C3H3N3O3
product | imidazole isocyanuric acid | N1C=NC=C1.N1C(=O)NC(=O)NC1=O | InChI=1S/C3H3N3O3.C3H4N2/c7-1-4-2(8)6-3(9)5-1;1-2-5-3-4-1/h(H3,4,5,6,7,8,9);1-3H,(H,4,5)
